US07795283B2
i) Ethyl trans-4-(4-aminophenoxy)cyclohexanecarboxylate
Palladium (10 wt. %) on carbon (50 mg) was added in one portion to a solution of crude ethyl 4-(4-nitrophenoxy)cyclohexanecarboxylate in a mixture of EtOH (15 mL) and THF (10 mL). The reaction mixture was stirred under a hydrogen atmosphere at room temperature for 16 h then filtered and concentrated in vacuo to give a solid that was purified by chromatography, using 30-60% EtOAc in isohexane as eluent, to give the title compound (127 mg, 4% over 2 steps) as a solid; 1H NMR (CDCl3) δ1.16-1.20 (3H, t), 1.31-1.42 (2H, m), 1.43-1.52 (2H, m), 1.96-2.01 (2H, m), 2.05-2.10 (2H, m), 2.20-2.28 (1H, m), 3.35 (2H, br s), 3.89-3.96 (1H, m), 4.05 (2H, q), 6.53-6.57 (2H, d), 6.65-6.69 (2H, d); MS m/e MH+ 264.

reactant | ethyl 4-(4-nitrophenoxy)cyclohexanecarboxylate | [N+](=O)([O-])C1=CC=C(OC2CCC(CC2)C(=O)OCC)C=C1 | C15H19NO5
solvent | EtOH | 15 mL | CCO | C2H6O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Palladium | [Pd] | Pd
product | Ethyl trans-4-(4-aminophenoxy)cyclohexanecarboxylate | 127 mg, 4% | NC1=CC=C(O[C@@H]2CC[C@H](CC2)C(=O)OCC)C=C1 | C15H21NO3
